US08871767B2
N-(5-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-(trifluoromethyl)phenyl)pivalamide
A 40 mL vial is charged with 5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-(trifluoromethyl)aniline (0.531 g, 1.7 mmol), acetonitrile (14 mL), and pyridine (0.275 mL). The stirred mixture is added trimethylacetyl chloride (0.419 mL, 3.4 mmol) and heated for 20 min at 80° C. The reaction is concentrated, taken into EtOAc (25 mL), washed once with HCl (15 mL, 1M) then NaOH (15 mL, 1M). Organic is dried, concentrated and purified by silica gel chromatography (0-100% EtOAc in Hexanes) to give the title compound (630 mg, 93% yield). LCMS (m/z)=397.4, 399.3 [M+H]+, tR=2.87 min. (compound same as Example 126)

reactant | 5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-(trifluoromethyl)aniline | 1.7 mmol, 0.531 g | ClC1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(N)C2)C(F)(F)F | C13H8ClF3N4
reactant | acetonitrile | 14 mL | C(C)#N | C2H3N
reactant | trimethylacetyl chloride | 3.4 mmol, 0.419 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | pyridine | 0.275 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-(trifluoromethyl)phenyl)pivalamide | 630 mg, 93% yield | ClC=1C=CC=2N(N1)C=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C(F)(F)F | C18H16ClF3N4O
